US04508717
A solution of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (24 g) in methylene chloride (370 cc) is oxidised with 85% pure meta-chloroperbenzoic acid (7.92 g) in accordance with the procedure described in Example 2 to give 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide (23 g) in the form of a brown-yellow solid.

reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 24 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)C1=CC=NC=C1)NC(=O)OC(C)(C)C)=O | C33H30N4O5S2
reactant | meta-chloroperbenzoic acid | 7.92 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 370 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene 5-oxide | 23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C1=CN=C(S1)C1=CC=NC=C1)=O)NC(=O)OC(C)(C)C)=O | C33H30N4O6S2
